US04808599
the reaction is carried out as in Example 1, starting with 7-phenylbenzo[b]thiophene-5-carboxylic acid (3 g) in toluene (30 cc) and thionyl chloride (2.6 cc) and then adding triethylamine (9.94 cc) and 2-butanamine (1.2 cc) in toluene (30 cc). After chromatography of the residue on silica gel using a cyclohexane:ethyl acetate (50:50 by volume) mixture as the eluent, N-(1-methylpropyl)-7-phenylbenzo[b]thiophene-5-carboxamide (2.35 g), m.p. 195° C., is obtained.

reactant | 7-phenylbenzo[b]thiophene-5-carboxylic acid | 3 g | C1(=CC=CC=C1)C1=CC(=CC2=C1SC=C2)C(=O)O | C15H10O2S
reactant | triethylamine | 9.94 cc | C(C)N(CC)CC | C6H15N
reactant | 2-butanamine | 1.2 cc | CC(CC)N | C4H11N
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | toluene | 30 cc | C1(=CC=CC=C1)C | C7H8
solvent | thionyl chloride | 2.6 cc | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 30 cc | C1(=CC=CC=C1)C | C7H8
product | N-(1-methylpropyl)-7-phenylbenzo[b]thiophene-5-carboxamide | 2.35 g | CC(CC)NC(=O)C1=CC2=C(SC=C2)C(=C1)C1=CC=CC=C1 | C19H19NOS
